US08487108B2
To the solution of 1-((2S)-1-hydroxy-3-(tetrahydro-2H-pyran-3-yl)propan-2-yl)hydrazine-1,2-dicarboxylate (14.68 g, 0.0332 mol) in methanol (250 mL) was added Pd(OH)2/C (1.47 g). The reaction flask was degassed and filled with H2. When the reaction was over, the mixture was filtered through celite, and the filter cake was washed with MeOH (2×20 mL). The combined organic solvent was dried over Na2SO4, and concentrated in vacuo to give (2S)-2-hydrazinyl-3-(tetrahydro-2H-pyran-3-yl)propan-1-ol (5.79 g, 94%), which was used for the next step without purification.

reactant | 1-((2S)-1-hydroxy-3-(tetrahydro-2H-pyran-3-yl)propan-2-yl)hydrazine-1,2-dicarboxylate | 0.0332 mol, 14.68 g | OC[C@H](CC1COCCC1)N(NC(=O)[O-])C(=O)[O-]
solvent | methanol | 250 mL | CO | CH4O
catalyst | Pd(OH)2/C | 1.47 g | [OH-].[OH-].[Pd+2]
product | (2S)-2-hydrazinyl-3-(tetrahydro-2H-pyran-3-yl)propan-1-ol | 5.79 g, 94% | N(N)[C@H](CO)CC1COCCC1 | C8H18N2O2
